US07635715B2
Step D: Preparation of Diethyl 2-(4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate
To a stirred solution of 4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylic acid (1.9 g, 8.5 mmol) in DCM (50 mL) and DMF (5 mL) was carefully added oxalyl chloride (0.79 mL, 8.9 mmol). Gas evolution was observed. The reaction was stirred at room temperature for 3 hours. In a separate flask was combined IPAc (1.0 mL, 8.7 mmol), diethyl malonate (1.6 mL, 11 mmol). and anhydrous MgCl2 (1.0 g, 11 mmol). The resulting white slurry was stirred for 30 minutes, and then TEA (4.0 mL, 29 mmol) was added and the reaction was stirred for 2.5 hours. The reaction was chilled in an ice water bath for 10 minutes, and then the concentrated acid chloride oil was added via syringe over 10 minutes. The ice bath was removed, and the reaction was stirred for 16 hours at 50° C. After cooling to room temperature, the reaction was acidified with 5N HCl solution (100 mL). The aqueous layer was removed, and the organic layer was washed with saturated NaHCO3 solution (150 mL). The aqueous layer was removed, and the organic extract was washed with water. The organic layer was dried (Na2SO4), filtered and concentrated to afford a dark colored oil. The crude reaction mixture was used in the next step.

reactant | 4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylic acid | 8.5 mmol, 1.9 g | FC1=C(C=CC=C1)C1(CCOCC1)C(=O)O | C12H13FO3
reactant | oxalyl chloride | 8.9 mmol, 0.79 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl malonate | 11 mmol, 1.6 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 11 mmol, 1.0 g | [Mg+2].[Cl-].[Cl-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-(4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | FC1=C(C=CC=C1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H23FO6
